US05817833
6-(2-Dimethylaminoethoxy)-5-methoxy-1H-indole
A stirred solution of N-[3-(2-dimethylaminoethoxy)4-methoxyphenyl]aminoacetaldehyde dimethyl acetal (D12, 5.3 g, 0.018 mole) in trifluoroacetic acid (22 ml) at -5° C. under argon was treated dropwise over 40 minutes with trifluoroacetic anhydride (22 ml). After a further 30 minutes the dark solution was treated with more trifluoroacetic acid (33 ml) and then heated under reflux for 7 hours. The solution was concentrated in vacuo and the residue basified with 10% Na2CO3 solution and extracted with ethyl acetate. The extract was dried (Na2SO4), concentrated in vacuo and the residue dissolved in methanol (100 ml), treated with potassium carbonate (10 g) and stirred at room temperature for 3 hours. The mixture was concentrated in vacuo,.the residue treated with water (60 ml) and extracted with ethyl acetate (2×70 ml). The combined extract was dried (Na2SO4) and concentrated in vacuo to afford the title compound as a brown solid (3.5 g, 83%).

reactant | N-[3-(2-dimethylaminoethoxy)4-methoxyphenyl]aminoacetaldehyde dimethyl acetal | 0.018 mole, 5.3 g | COC(CNC1=CC(=C(C=C1)OC)OCCN(C)C)OC | C15H26N2O4
reactant | trifluoroacetic anhydride | 22 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 22 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroacetic acid | 33 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(2-Dimethylaminoethoxy)-5-methoxy-1H-indole | 3.5 g, 83% | CN(CCOC1=C(C=C2C=CNC2=C1)OC)C | C13H18N2O2
